US04728742
Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid-N-(2'-hydroxyethyl)imide
760 g of allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride (isomeric mixture) are placed into the reaction vessel, and 227.55 g of monoethanolamine are added dropwise with stirring. The mixture is refluxed for 2 hours, and water and some excess monoethanolamine are distilled off until a temperature of 175° C. is reached. The pressure is then decreased to 2670 Pa. The temperature is lowered to 100° C. and the product is rectified at 4.9 Pa. At between 170° and 174° C., there distil over 712.4 g (77.3% of theory) of a pale yellow oil having the following characteristic values:

reactant | allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 760 g | C(C=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C12H12O3
reactant | monoethanolamine | 227.55 g | C(O)CN | C2H7NO
product | Allylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid-N-(2'-hydroxyethyl)imide | OCCN=C(O)C1C2(C=CC(C1C(=O)O)C2)CC=C | C14H19NO4
